US04631316
N,N-Dimethylthiocarbamylthio-N'-phenylurea (Compound No. 1)
Phenylisocyanate (23.8 g, 0.20 mole) and dibutyltin di-2-ethylhexanoate (0.40 g) were added to a solution of S-(dimethylthiocarbamyl)sulfenamide (27.2 g, 0.20 mole) in toluene (400 ml). The mixture was heated to 85°-95° C. on a steam bath and stirred for 2.5 hours. Then the hot slurry was filtered and the isolated product was dried in a 60° C. oven. Yield: 42.8 g, 83.9% mp 185°-188° C. The product was washed with hot tetrahydrofuran and dried. mp 193°-194° C.

reactant | Phenylisocyanate | 0.20 mole, 23.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | dibutyltin di-2-ethylhexanoate | 0.40 g | CCCCC(CC)C(=O)O[Sn](CCCC)(CCCC)OC(=O)C(CC)CCCC
reactant | S-(dimethylthiocarbamyl)sulfenamide | 0.20 mole, 27.2 g | CN(C(=S)SN)C | C3H8N2S2
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethylthiocarbamylthio-N'-phenylurea | CN(C(=O)N(C1=CC=CC=C1)SC(N)=S)C | C10H13N3OS2
